US05254558
To a solution of 2-(5-benzyloxycarbonylamino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide (1.9 g) in tetrahydrofuran (50 mL) and ethanol (50 mL) was added 10% (w/w) palladium on carbon (0.29 g) and the resulting solution was placed under a hydrogen atmosphere (0.75 bar) for 12 h. The catalyst was removed by filtration through diatomaceous earth and the solvent was evaporated. The resulting oil was crystallized from ether. The product was collected and washed with ether:hexane (1:1) to provide 2-(5-amino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide (1.14 g) as a white solid; NMR (DMSO/D2O): 7.38 (m,6), 4.55 (d,1), 4.37 (d,1), 3.98 (m,1), 2.17 (m,1), 0.79 (d,3), 0.72 (d,3).

reactant | 2-(5-benzyloxycarbonylamino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 1.9 g | C(C1=CC=CC=C1)OC(=O)NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)C1=CC=CC=C1 | C26H25F3N4O5
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.29 g | [Pd] | Pd
product | 2-(5-amino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 1.14 g | NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)C1=CC=CC=C1 | C18H19F3N4O3
